US05840732
To a solution of 0.99 g (3.92 mmol) of 1-benzyloxymethoxy-3,3-dimethyl-5-pentanol and 0.60 ml (4.3 mmol) of triethylamine in 15 ml of dichloromethane, 0.33 ml (4.3 mmol) of methanesulfonyl chloride was added at 0° C., followed by stirring at room temperature for 30 minutes, after which saturated aqueous sodium hydrogen carbonate was added. The mixture was extracted with dichloromethane and dried, after which the solvent was distilled off to yield 1-benzyloxymethoxy-3,3-dimethyl-5-methanesulfonyloxypentane.

reactant | 1-benzyloxymethoxy-3,3-dimethyl-5-pentanol | 3.92 mmol, 0.99 g | C(C1=CC=CC=C1)OCOCCC(CCO)(C)C | C15H24O3
reactant | triethylamine | 4.3 mmol, 0.60 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.3 mmol, 0.33 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-benzyloxymethoxy-3,3-dimethyl-5-methanesulfonyloxypentane | C(C1=CC=CC=C1)OCOCCC(CCOS(=O)(=O)C)(C)C | C16H26O5S
